US06498169B1
Synthesis of 4-[N-(3,4-Methylenedioxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl) benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (119 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a dihydrochloride which gave the title compound as yellow powder.

reactant | 4-(3,4-Methylenedioxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 119 mg | C1OC=2C=C(C=CC2O1)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C27H31N3O5
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-[N-(3,4-Methylenedioxyphenyl)-N-[3-(3,4,5-trimethoxyphenyl) benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.C1OC=2C=C(C=CC2O1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H47N3O8.2ClH/c1-47-38-20-31(21-39(48-2)42(38)51-5)30-9-7-8-28(18-30)26-46(34-10-11-36-37(24-34)54-27-53-36)33-13-16-45(17-14-33)25-29-12-15-44-35(19-29)32-22-40(49-3)43(52-6)41(23-32)50-4;;/h7-12,15,18-24,33H,13-14,16-17,25-27H2,1-6H3;2*1H
